* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\comparator_subckt\comparator_subckt.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m6 net-_m3-pad2_ net-_m1-pad2_ net-_m3-pad1_ net-_m3-pad2_ CMOSP W=180n L=180n M=1
m3 net-_m3-pad1_ net-_m3-pad2_ net-_m1-pad1_ net-_m3-pad2_ CMOSP W=180n L=180n M=1
m9 net-_m3-pad1_ net-_m9-pad2_ net-_m10-pad1_ net-_m3-pad2_ CMOSP W=180n L=180n M=1
m8 net-_m10-pad1_ net-_m2-pad1_ net-_m11-pad1_ net-_m3-pad2_ CMOSP W=180n L=180n M=1
m4 net-_m1-pad1_ net-_m11-pad1_ net-_m2-pad1_ net-_m3-pad2_ CMOSP W=180n L=180n M=1
m7 net-_m11-pad1_ net-_m2-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m5 net-_m2-pad1_ net-_m11-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m2 net-_m2-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m10 net-_m10-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m11 net-_m11-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m13 net-_m13-pad1_ net-_m11-pad1_ net-_m12-pad1_ net-_m13-pad1_ CMOSP W=180n L=180n M=1
m12 net-_m12-pad1_ net-_m11-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
* u1  net-_m3-pad2_ net-_m9-pad2_ net-_m1-pad2_ net-_m13-pad1_ net-_m1-pad3_ net-_m12-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
