* d:\analog_vlsi\mixed_signal_projects\buffer_sub\buffer_sub.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 out1 in gnd gnd CMOSN W=180n L=180n M=1
v1 net-_m2-pad1_ gnd  dc 1.8
v2  in gnd pulse(0 100m 0 1u 1u 1 2)
* u1  out plot_v1
m3 out out1 gnd gnd CMOSN W=3u L=180n M=1
m2 net-_m2-pad1_ net-_m2-pad1_ out1 net-_m2-pad1_ CMOSP W=3u L=180n M=1
m4 net-_m2-pad1_ out1 out net-_m2-pad1_ CMOSP W=180n L=180n M=1
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)+2 v(out)
.endc
.end
